US04343811
2-[3-(4-chlorophenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methyl-propanol
The above compound was prepared from 2-[3-(4-chlorophenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methyl-propanoic acid and lithiumaluminium hydride using a procedure analogous to that of Example 125.

reactant | 2-[3-(4-chlorophenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methyl-propanoic acid | ClC1=CC=C(C=C1)C1=C(N(C2=CC=C(C=C12)OC(C(=O)O)(C)C)C)C | C20H20ClNO3
reactant | lithiumaluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-[3-(4-chlorophenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methyl-propanol | ClC1=CC=C(C=C1)C1=C(N(C2=CC=C(C=C12)OC(CO)(C)C)C)C | C20H22ClNO2
